US08877760B2
3-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-(cyclopropylamino)pyrazine-2-carboxamide
Chloropyrazine S1.6 (25 mg, 0.12 mmol) was diluted with NMP (5 mL) and treated with 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (52 mg, 0.24 mmol) and DIPEA (42 uL, 0.24 mmol) and the resulting solution stirred at 150° C. for three days. The reaction mixture was diluted with water and acidified with a small amount of TFA, then purified by preparative HPLC affording the desired product (10 mg) after lyophilization. MS found for C20H25N7O2 as (M+H)+396.0. UV: λ=203, 262, 309 nm.

reactant | Chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.24 mmol, 52 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | DIPEA | 0.24 mmol, 42 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 3-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-(cyclopropylamino)pyrazine-2-carboxamide | 10 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC=1C(=NC=C(N1)NC1CC1)C(=O)N | C20H25N7O2
